US09120819B2
Stage A: Ethyl 3-(2-chloro-2-oxoethoxy)benzoate
32.5 ml (0.45 mol) of thionyl chloride and 10 μl of N,N-dimethylformamide are added to a solution of 20.0 g (89.2 mmol) of [3-(ethoxycarbonyl)phenoxy]acetic acid (A. Banerjee, M. M. Adak, S. Das, S. Banerjee, S. Sengupta, Indian Chem. Soc., 1987, 64, 1, 34-37) in 200 ml of 1,2-dichloroethane. The mixture is refluxed for 1 hour and is then concentrated to dryness and dried under vacuum at 50° C. overnight and used as it is in the subsequent stage.

reactant | thionyl chloride | 0.45 mol, 32.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 10 μl | CN(C=O)C | C3H7NO
reactant | [3-(ethoxycarbonyl)phenoxy]acetic acid | 89.2 mmol, 20.0 g | C(C)OC(=O)C=1C=C(OCC(=O)O)C=CC1 | C11H12O5
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | Ethyl 3-(2-chloro-2-oxoethoxy)benzoate | ClC(COC=1C=C(C(=O)OCC)C=CC1)=O | C11H11ClO4
